US08431695B2
Preparation of 7-[4-(4-acetylpiperazin-1-yl)phenyl]-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (100 mg, 0.20 mmol) in dichloromethane (2 mL) was added pyridine (23 μL, 0.28 mmol) followed by acetyl chloride (17 μL, 0.24 mmol). The mixture was stirred (rt) overnight. The mixture was diluted with dichloromethane (25 mL) and was washed with H2O (20 mL), brine, and was dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC using a gradient elution from 15% to 50% acetonitrile in water to obtain 28 mg (26%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.56 (s, 1 H), 7.97 (d, 2 H), 7.94 (s, 1 H), 7.81 (d, 1 H), 7.66-7.64 (m, 1 H), 7.36-7.26 (m, 5 H), 7.19 (dd, 1 H), 7.06-7.01 (m, 3 H), 5.66 (s, 2. H), 3.62-3.55 (m, 4 H), 3.26-3.21 (m, 2 H), 3.20-3.14 (m, 2 H), 2.05 (s, 3 H); ES-MS m/z 543.33 [M+H]+, HPLC RT (min) 2.65.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.20 mmol, 100 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)N2CCNCC2 | C30H28N8
reactant | pyridine | 0.28 mmol, 23 μL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.24 mmol, 17 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 7-[4-(4-acetylpiperazin-1-yl)phenyl]-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 28 mg, 26% | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C32H30N8O
